US06369110B1
A 2N-aqueous sodium hydroxide solution (10 ml) was added to a solution of methyl 4,9-dimethyl-6,7-dihydro-5H-benzocycloheptene-8-carboxylate (0.85 g, 3.68 mmol) in methanol (10 ml), and the mixture was heated under reflux for 3 hours. The methanol was distilled off under reduced pressure and the residue was adjusted to pH 1 to 2 with 4N-hydrochloric acid and then extracted three times with ethyl acetate. The extract solution was dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the thus obtained solid was washed with n-hexane to obtain 0.56 g of 4,9-dimethyl-6,7-dihydro-5H-benzocycloheptene-8-carboxylic acid.

reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
reactant | methyl 4,9-dimethyl-6,7-dihydro-5H-benzocycloheptene-8-carboxylate | 3.68 mmol, 0.85 g | CC1=CC=CC=2C(=C(CCCC21)C(=O)OC)C | C15H18O2
solvent | methanol | 10 ml | CO | CH4O
product | 4,9-dimethyl-6,7-dihydro-5H-benzocycloheptene-8-carboxylic acid | 0.56 g | CC1=CC=CC=2C(=C(CCCC21)C(=O)O)C | C14H16O2
